* /Users/jackforrester/Documents/AppDev/PyPureSPICE/Example Networks/Potential Divider.asc
V1 N001 0 1
R1 N002 N001 100
R2 0 N002 100
.tran 10m
.backanno
.end
